US05262390
By the method of Example 1, Step I, 11.27 g (0.054 mole) of methyl (2-formyl-5-methylphenoxy)acetate was reacted with 0.54 g (0.014 mole) of sodium borohydride and 0.10 g (0.0018 mole) of sodium methoxide in 30 mL of methanol, yielding 9.41 g of methyl (2-hydroxymethyl-5-methylphenoxy)acetate as a yellow oil. The NMR spectrum was consistent with the proposed structure.

reactant | methyl (2-formyl-5-methylphenoxy)acetate | 0.054 mole, 11.27 g | C(=O)C1=C(OCC(=O)OC)C=C(C=C1)C | C11H12O4
reactant | sodium borohydride | 0.014 mole, 0.54 g | [BH4-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
catalyst | sodium methoxide | 0.0018 mole, 0.10 g | C[O-].[Na+]
product | methyl (2-hydroxymethyl-5-methylphenoxy)acetate | 9.41 g | OCC1=C(OCC(=O)OC)C=C(C=C1)C | C11H14O4
